US06787536B2
4-[5-(4Trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester
Prepared according to the method for the preparation of 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester, from 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester (0.346 g) and 4-(trifluoromethyl)benzeneboronic acid (0.211 g), to yield the title compound as a grey solid (0.392 g, 95%).

reactant | 4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F | C19H23FN4O2
reactant | 4-(5-bromopyrimidin-2-yl)piperazine-1-carboxylic acid tert-butyl ester | 0.346 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)Br | C13H19BrN4O2
reactant | 4-(trifluoromethyl)benzeneboronic acid | 0.211 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 4-[5-(4Trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-carboxylic acid tert-butyl ester | 0.392 g, 95% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F | C20H23F3N4O2
